US07820654B2
Synthesis of succinic acid mono-{1-[2-(3-chloro-4-methoxy-phenylamino)-6-phenyl-pyrimidin-4-yl]-piperidin-4-yl}ester
A mixture of compound 1-[2-(3-chloro-4-methoxy-phenylamino)-6-phenyl-pyrimidin-4-yl]-piperidin-4-ol (1.0 g, 2.4 mmol), 4-(N,N-dimethyl)aminopyridine (0.45 g, 3.66 mmol) and succinic anhydride (0.73 g, 7.33 mmol) in dichloroethane (20 mL) was stirred at refluxing temperature for 48 hours. The mixture was cooled to temperature in the range of 20-40° C. and solvent was removed under reduced pressure. The residue was treated with water (20 mL) and the solid precipitated was filtered and washed with isopropanol to give the desired product.

reactant | 1-[2-(3-chloro-4-methoxy-phenylamino)-6-phenyl-pyrimidin-4-yl]-piperidin-4-ol | 2.4 mmol, 1.0 g | ClC=1C=C(C=CC1OC)NC1=NC(=CC(=N1)N1CCC(CC1)O)C1=CC=CC=C1 | C22H23ClN4O2
reactant | succinic anhydride | 7.33 mmol, 0.73 g | C1(CCC(=O)O1)=O | C4H4O3
catalyst | 4-(N,N-dimethyl)aminopyridine | 3.66 mmol, 0.45 g | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | dichloroethane | 20 mL | ClC(C)Cl | C2H4Cl2
product | succinic acid mono-{1-[2-(3-chloro-4-methoxy-phenylamino)-6-phenyl-pyrimidin-4-yl]-piperidin-4-yl}ester | ClC=1C=C(C=CC1OC)NC1=NC(=CC(=N1)N1CCC(CC1)OC(CCC(=O)O)=O)C1=CC=CC=C1 | C26H27ClN4O5
